US04550105
To a solution of 0.250 g of sodium (3R,4R)-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-4-methylthio-2-oxoazetidine-1-sulfonate in 8 ml of water is added under ice-cooling 0.078 g of sodium monomethyldithiocarbamate, and the mixture is stirred at room temperature for 1.5 hours. The same procedure as Example 3B yields 0.052 g of sodium (3R,4R)-3-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-4-methylthio-2-oxoazetidine-1-sulfonate.

reactant | sodium (3R,4R)-3-[2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetamido]-4-methylthio-2-oxoazetidine-1-sulfonate | 0.250 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1SC)S(=O)(=O)[O-])=O)=NOC.[Na+]
reactant | sodium monomethyldithiocarbamate | 0.078 g | CSC(N)=S.[Na]
solvent | water | 8 ml | O | H2O
product | sodium (3R,4R)-3-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-4-methylthio-2-oxoazetidine-1-sulfonate | 0.052 g | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@@H]1SC)S(=O)(=O)[O-])=O)=NOC.[Na+] | InChI=1S/C10H13N5O6S3.Na/c1-21-14-5(4-3-23-10(11)12-4)7(16)13-6-8(17)15(9(6)22-2)24(18,19)20;/h3,6,9H,1-2H3,(H2,11,12)(H,13,16)(H,18,19,20);/q;+1/p-1/t6-,9-;/m1./s1
